US04066645
b. 8-Chloro-5-ethoxy-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine
2.5 g. of 5,8-dichloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine are added to a solution of 0.3 g. sodium in 20 ml. of ethanol. The mixture is stirred at 60° for 1 hour. After addition of 10 ml. of water, 8-chloro-5-ethoxy-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine precipitates and is filtered off, yield: 1.8 g. (68%); m.p. 175.6° (ethyl acetate).

reactant | 5,8-dichloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine | ClC1=NC=2N(C3=C1C=NC(=C3)Cl)N=C(C2)C | C10H6Cl2N4
reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
product | 8-Chloro-5-ethoxy-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine | ClC1=CC2=C(C(=NC=3N2N=C(C3)C)OCC)C=N1 | C12H11ClN4O
